US09359359B2
To a solution of tert-butyl 2-(7-(4-chlorobenzyl)-3-methyl-2,6-dioxo-8-(3-(trifluoromethoxy)phenoxy)-2,3,6,7-tetrahydro-1H-purin-1-yl)acetate (200 mg, 0.342 mmol) in DCM (5 ml) was added trifluoroacetic acid (2 ml, 26.9 mmol) at 0° C. The mixture was stirred at 0° C. to room temperature for 3 h. Then the mixture was concentrated, diluted with DCM and water. The phases were separated and the organic phase was washed with brine, dried over sodium sulfate, filtered and concentrated to give 2-(7-(4-chlorobenzyl)-3-methyl-2,6-dioxo-8-(3-(trifluoromethoxy)phenoxy)-2,3,6,7-tetrahydro-1H-purin-1-yl)acetic acid (180 mg, 99.9% yield) as white solid. 1H-NMR (DMSO-d6) δ 13.06(s, 1H), 7.64-7.59(t, 1H), 7.55(s, 1H), 7.48-7.43(m, 5H), 7.36-7.34(d, 1H), 5.43(s, 2H), 4.53(s, 2H), 3.37(s, 3H). LCMS retention time 2.994 min; LCMS MH+ 525.

reactant | tert-butyl 2-(7-(4-chlorobenzyl)-3-methyl-2,6-dioxo-8-(3-(trifluoromethoxy)phenoxy)-2,3,6,7-tetrahydro-1H-purin-1-yl)acetate | 0.342 mmol, 200 mg | ClC1=CC=C(CN2C(=NC=3N(C(N(C(C23)=O)CC(=O)OC(C)(C)C)=O)C)OC2=CC(=CC=C2)OC(F)(F)F)C=C1 | C26H24ClF3N4O6
reactant | trifluoroacetic acid | 26.9 mmol, 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | 2-(7-(4-chlorobenzyl)-3-methyl-2,6-dioxo-8-(3-(trifluoromethoxy)phenoxy)-2,3,6,7-tetrahydro-1H-purin-1-yl)acetic acid | 180 mg, 99.9% yield | ClC1=CC=C(CN2C(=NC=3N(C(N(C(C23)=O)CC(=O)O)=O)C)OC2=CC(=CC=C2)OC(F)(F)F)C=C1 | C22H16ClF3N4O6
